US07951954B2
b) Iso-chroman-1-ol
Manganese(IV) oxide (1.43 g) was added to a solution of 2-(2-hydroxymethyl-phenyl)-ethanol (0.5 g) in dichloromethane (25 mL) and stirred for 18 hours under nitrogen. The reaction was filtered through celite, the filter pad washed with dichloromethane (2×20 mL), and the combined filtrates evaporated. Purification on silica, eluting with a gradient of iso-hexane:ethyl acetate [1:0 to 4:1], afforded the subtitle compound as a yellow oil (263 mg).

reactant | 2-(2-hydroxymethyl-phenyl)-ethanol | 0.5 g | OCC1=C(C=CC=C1)CCO | C9H12O2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
catalyst | Manganese(IV) oxide | 1.43 g | [O-2].[Mn+4].[O-2]
product | Iso-chroman-1-ol | 263 mg | C1(OCCC2=CC=CC=C12)O | C9H10O2
